US06521666B1
To a solution of N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine (0.098 g) and tert-butylhydroxylamine (0.047 g) in CH2Cl2 (5 mL) was added BOP reagent (0.17 g) followed by DIEA (0.1 mL) and the mixture was stirred overnight at room temperature. The mixture was evaporated and the residue was dissolved in EtOAc (30 mL). The EtOAc solution was successively washed with 1 N HCl, satd. NaHCO3, satd. LiCl, dried (MgSO4), and concentrated. The residue was purified by preparative TLC (silica gel; eluent: hexane/EtOAc/CH2Cl2 6/1/1) and recrystallization from CH2Cl2/hexane to give 74 mg of N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine N-(tert-butyl)-N-hydroxyamide. ESMS: m/z 515 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine | 0.098 g | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2)OC)C(=O)O)C(=CC=C1)Cl | C23H19Cl2NO4
reactant | tert-butylhydroxylamine | 0.047 g | C(C)(C)(C)NO | C4H11NO
reactant | BOP reagent | 0.17 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine N-(tert-butyl)-N-hydroxyamide | 74 mg | C(C)(C)(C)N(C([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O)O | C27H28Cl2N2O4
